* Z:\home\cmaier\LTC\LTspiceIV\schematics\UiO_demo\mos18u.asc
Mn dn gn 0 bn CMOSN w={Wn} l={Ln}
Vdn dnref 0 {Vd}
Egn gn dn dn dnref 1000k
Idn 0 gn {Ibias}
Vbn bn 0 {Vb}
Egp gp dp dp dpref 1000k
Mp dp gp 0 bp CMOSP w={Wp} l={Lp}
Edp dpref 0 dnref 0 -1
Ebp bp 0 bn 0 -1
Bdp 0 gp I=-I(Idn)
.param Ibias=1u
.param Vd=0.6
.dc dec Idn 4p 40u 40
.param Vb=0
.param Wn=0.36u
.param Ln={L}
.param Wp=0.36u
.param Lp={L}
.include TSMC18u_T77A.mod
.step param L list 0.18u 0.36u 0.72u
.backanno
.end
