* Z:\home\cmaier\LTC\LTspiceIV\schematics\bionicblinkenlights\spike1.asc
Q1 N002 Vmembrane 0 0 2N3904
VDD Vdd 0 {Vdd}
C1 Vmembrane 0 100µ
Q2 Vmembrane reset 0 0 2N3904
R1 Vdd out 330
R2 reset 0 10k
R3 Vdd Vmembrane 100k
D1 out N002 QTLP690C
Q3 N001 out Vdd 0 2N3906
R4 N001 Vmembrane 10k
Q4 reset slowout Vdd 0 2N3906
C2 Vdd slowout 2µ
R5 slowout out 33k
.param Vdd 3
.tran 2
* Integrate and fire neuron
.model 2N3904 NPN(IS=1E-14 VAF=100 Bf=300 IKF=0.4 XTB=1.5 BR=4 CJC=4E-12 CJE=8E-12 RB=20 RC=0.1 RE=0.1 TR=250E-9 TF=350E-12 ITF=1 VTF=2 XTF=3 Vceo=40 Icrating=200m mfg=NXP)
.model 2N3906 PNP(IS=1E-14 VAF=100 BF=200 IKF=0.4 XTB=1.5 BR=4 CJC=4.5E-12 CJE=10E-12 RB=20 RC=0.1 RE=0.1 TR=250E-9 TF=350E-12 ITF=1 VTF=2 XTF=3 Vceo=40 Icrating=200m mfg=NXP)
.model QTLP690C D(Is=1e-22 Rs=6 N=1.5 Cjo=50p Xti=100 Iave=160m Vpk=5 mfg=Fairchild type=LED)
.backanno
.end
